US06686423B1
Preparation of a 0.1 M Magnesium Phenolate Solution I1:
0.637 g of 2,6-di-tert-butyl-4-methylphenol (from Aldrich) and 2.9 ml of a 1.0 molar solution of dibutylmagnesium (DBM) in heptane (from Aldrich) were combined at 25° C. and stirred for 10 hours in 26 ml of cyclohexane before use.

reactant | 2,6-di-tert-butyl-4-methylphenol | 0.637 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | dibutylmagnesium | C(CCC)[Mg]CCCC
solvent | heptane | CCCCCCC | C7H16
solvent | cyclohexane | 26 ml | C1CCCCC1 | C6H12
product | Magnesium Phenolate | C1(=CC=CC=C1)[O-].[Mg+2].C1(=CC=CC=C1)[O-] | InChI=1S/2C6H6O.Mg/c2*7-6-4-2-1-3-5-6;/h2*1-5,7H;/q;;+2/p-2
